US08222248B2
To a solution of (4-formyl-3,5-dimethylphenylamino)-acetic acid methyl ester (800 mg) and 3,4-diamino-N-(3,4-dimethylphenyl)-benzamide (694 mg) in DMSO (15 mL) was added Yb(OTf)3 (390 mg) and Cu(OTf)2 (228 mg). The solution was stirred at room temperature for 18 h then the reaction mixture was partioned between water and EtOAc The aqueous layer was extracted with EtOAc. The combined organic layers were dried, filtered and concentrated. The residue was purified by flash chromatography (amino-column) using hexanes/ethyl acetate (1:4) to give {4-[5-(3,4-dimethylphenylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethylphenylamino}-acetic acid methyl ester as a light yellow solid. MS (ESI)m/z 457 (M+H); 1H NMR (MeOD, 400 MHz) δ 8.21 (s, 1H), 7.85 (dd, 1H), 7.67 (s, 1H), 7.47 (d, 1H), 7.42 (dd, 1H), 7.12 (d, 1H), 6.42 (s, 2H), 3.97 (s, 2H), 3.75 (s, 3H), 2.29 (s, 3H), 2.26 (s, 3H), 2.09 (s, 6H).

reactant | (4-formyl-3,5-dimethylphenylamino)-acetic acid methyl ester | 800 mg | COC(CNC1=CC(=C(C(=C1)C)C=O)C)=O | C12H15NO3
reactant | 3,4-diamino-N-(3,4-dimethylphenyl)-benzamide | 694 mg | NC=1C=C(C(=O)NC2=CC(=C(C=C2)C)C)C=CC1N | C15H17N3O
reactant | Yb(OTf)3 | 390 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
reactant | water | O | H2O
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
catalyst | Cu(OTf)2 | 228 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Cu+2]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {4-[5-(3,4-dimethylphenylcarbamoyl)-1H-benzoimidazol-2-yl]-3,5-dimethylphenylamino}-acetic acid methyl ester | COC(CNC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=CC(=C2)C(NC2=CC(=C(C=C2)C)C)=O)C)=O | C27H28N4O3
